US06344452B1
Preparation of (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodi azepin-3-yl)ureido]phenyl]-2-methylpropionic acid trans-4-aminocyclohexanol salt
(R)-(−)-2-[3-[3-(1-tert-Butylcarbonylmethyl-2-oxo-5-c yclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)urei do]phenyl]-2-methylpropionic acid (42 mg) was dissolved in acetonitrile (0.5 mL). Trans-4-amino-cyclohexanol (8 mg) was added and then dissolved under heat. After the mixture was allowed to stand overnight, crystals so precipitated were collected by filtration and dried, whereby the title compound (39 mg) was obtained. Yield: 77%.

reactant | (R)-(−)-2-[3-[3-(1-tert-Butylcarbonylmethyl-2-oxo-5-c yclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)urei do]phenyl]-2-methylpropionic acid | 42 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)O)(C)C)=O)=O | C32H42N4O5
reactant | Trans-4-amino-cyclohexanol | 8 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodi azepin-3-yl)ureido]phenyl]-2-methylpropionic acid trans-4-aminocyclohexanol salt | 39 mg, Yield: 77% | N[C@@H]1CC[C@H](CC1)O.C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)O)(C)C)=O)=O | InChI=1S/C32H42N4O5.C6H13NO/c1-31(2,3)27(37)20-36-26-17-10-9-16-25(26)35(23-14-7-6-8-15-23)19-24(28(36)38)34-30(41)33-22-13-11-12-21(18-22)32(4,5)29(39)40;7-5-1-3-6(8)4-2-5/h9-13,16-18,23-24H,6-8,14-15,19-20H2,1-5H3,(H,39,40)(H2,33,34,41);5-6,8H,1-4,7H2/t24-;5-,6-/m1./s1
